US08703810B2
To a solution of 2-(3-fluoro-5-methoxyphenyl)acetonitrile (2.62 g, 16 mmol) in MeOH:H2O (1:1; 15 mL), NaOH (1.28 g, 32 mmol) was added. Then the mixture was stirred at 65° C. for 4 h. The mixture was cooled to room temperature, and 4M aqueous HCl solution was added until the pH was adjusted to 4-5. The mixture was filtered and the solid obtained was washed with H2O (2×5 mL) to give 2.33 g of 2-(3-fluoro-5-methoxyphenyl)acetic acid. 1H NMR (CDCl3): δ 6.52-6.62 (m, 3H), 3.78 (s, 3H), 3.59 (s, 2H).

reactant | 2-(3-fluoro-5-methoxyphenyl)acetonitrile | 16 mmol, 2.62 g | FC=1C=C(C=C(C1)OC)CC#N | C9H8FNO
reactant | NaOH | 32 mmol, 1.28 g | [OH-].[Na+]
reactant | HCl | 4M | Cl | ClH
reactant | MeOH H2O | 15 mL | CO.O
product | 2-(3-fluoro-5-methoxyphenyl)acetic acid | 2.33 g | FC=1C=C(C=C(C1)OC)CC(=O)O | C9H9FO3
